US08975400B2
tert-butyl7-((4-(4-chloro-3-(trifluoromethyl)phenoxy)-3-cyanobenzyl)oxy)-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1(5H)-carboxylate
The title compound was prepared by a procedure similar to that described for E1 starting from 2-(4-chloro-3-(trifluoromethyl)phenoxy)-5-(hydroxymethyl)benzonitrile NaH and tert-butyl 7-chloro-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1(5H)-carboxylate.

reactant | 2-(4-chloro-3-(trifluoromethyl)phenoxy)-5-(hydroxymethyl)benzonitrile NaH | ClC1=C(C=C(OC2=C(C#N)C=C(C=C2)CO)C=C1)C(F)(F)F.[H-].[Na+]
reactant | tert-butyl 7-chloro-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1(5H)-carboxylate | ClC=1C=C2N(C(N1)=O)CCN2C(=O)OC(C)(C)C | C11H14ClN3O3
product | tert-butyl7-((4-(4-chloro-3-(trifluoromethyl)phenoxy)-3-cyanobenzyl)oxy)-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1(5H)-carboxylate | C(C)(C)(C)OC(=O)N1CCN2C(N=C(C=C21)OCC2=CC(=C(C=C2)OC2=CC(=C(C=C2)Cl)C(F)(F)F)C#N)=O | C26H22ClF3N4O5
